US06900215B2
4-Fluoro-3-([1,2,4]triazol-1-yl)phenylboronic acid (100 mg, 0.48 mmol) was coupled to 2-(3-bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol (113 mg, 0.44 mmol) using the method in Example 1. Purification by chromatography on silica gel eluting with dichloromethane containing 5% methanol then trituration with diethyl ether gave 2-[3-(4-fluoro-3-([1,2,4]triazol-1-yl)phenyl)imidazo[1,2-α]pyrimidin-7-yl]propan-2-ol as a pink solid: δH (400 MHz, CDCl3) 1.63 (6H, s), 4.31 (1H, s), 7.12 (1H, d, J 7), 7.47-7.57 (2H, m), 7.91 (1H, s), 8.14-8.18 (2H, m), 8.61 (1H, d, J 7), 8.79 (1H, d, J 3); m/z (ES+) 339 (M++H).

reactant | 4-Fluoro-3-([1,2,4]triazol-1-yl)phenylboronic acid | 0.48 mmol, 100 mg | FC1=C(C=C(C=C1)B(O)O)N1N=CN=C1 | C8H7BFN3O2
reactant | 2-(3-bromoimidazo[1,2-α]pyrimidin-7-yl)propan-2-ol | 0.44 mmol, 113 mg | BrC1=CN=C2N1C=CC(=N2)C(C)(C)O | C9H10BrN3O
product | 2-[3-(4-fluoro-3-([1,2,4]triazol-1-yl)phenyl)imidazo[1,2-α]pyrimidin-7-yl]propan-2-ol | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(C)(C)O)N2N=CN=C2 | C17H15FN6O
